US05144045
3,3-Difluoro-2-methyl-2-nonadecanol
To a solution of 6.9 g of ethyl 2,2-difluorooctadecanoate in 100 ml of ether at 0° C. is added 33 ml of methyl magnesium bromide dropwise with stirring. Following complete addition the reaction is allowed to reach room temperature and stirred for 30 minutes. The reaction mixture is washed with saturated ammonium chloride solution. The organic layer is washed with 10% hydrochloric acid, water and 10% sodium bicarbonate. The organic layer is dried and evaporated to an oil which is purified by chromatography on silica gel using 1-10% ethyl acetate:hexanes to give 3.8 g of the desired product as a solid following petroleum ether crystallization.

reactant | ethyl 2,2-difluorooctadecanoate | 6.9 g | FC(C(=O)OCC)(CCCCCCCCCCCCCCCC)F | C20H38F2O2
reactant | methyl magnesium bromide | 33 ml | C[Mg]Br
reactant | ether | 100 ml | CCOCC | C4H10O
product | 3,3-Difluoro-2-methyl-2-nonadecanol | FC(C(C)(O)C)(CCCCCCCCCCCCCCCC)F | C20H40F2O
